US04020076
A suspension of 40 g of ethyl N-carbethoxy-dithiocarbamate, 14 g of potassium methylate, 15 g of chloroacetonitrile and 1 g of potassium iodide in 250 ml of methanol was stirred for 3 hours at room temperature under an inert atmosphere and then 14 g of potassium methylate were added. The reaction mixture was refluxed for one hour and water was then added thereto. The aqueous phase was washed with ethyl acetate and then acidified with concentrated hydrochloric acid. The aqueous phase was extracted with ethyl acetate and the extracts were dried, filtered and evaporated to dryness. The residue was empasted with isopropyl ether and then filtered to obtain 14 g of 2-ethylthio-4-hydroxy-5-cyano-thiazole in the form of cream crystals melting at 160° C.

reactant | ethyl N-carbethoxy-dithiocarbamate | 40 g | C(=O)(OCC)NC(SCC)=S | C6H11NO2S2
reactant | potassium methylate | 14 g | C[O-].[K+]
reactant | chloroacetonitrile | 15 g | ClCC#N | C2H2ClN
reactant | potassium methylate | 14 g | C[O-].[K+]
reactant | water | O | H2O
solvent | methanol | 250 ml | CO | CH4O
catalyst | potassium iodide | 1 g | [I-].[K+]
product | 2-ethylthio-4-hydroxy-5-cyano-thiazole | 14 g | C(C)SC=1SC(=C(N1)O)C#N | C6H6N2OS2
